US04120965
3.08 of acetyl chloride diluted with 10 ml of methylene chloride was added dropwise to a solution of 9.9 g (7 RS,12aRS)-1,2,3,4,5,7,12,12a-octahydro-7-phenyl-1,4-diazepino[1,7-b]isoquinoline in 100 ml of methylene chloride. The reaction mixture was stirred for 1 hour, then wasted twice with water, then dried with magnesium sulphate and concentrated to dryness to give (7RS,12aRS)-3-acetyl-1,2,3,4,5,7,12,12a-octahydro-7-phenyl-1,4-diazepino[1,7-b]isoquinoline (M.P. 145°-147°).

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | (7 RS,12aRS)-1,2,3,4,5,7,12,12a-octahydro-7-phenyl-1,4-diazepino[1,7-b]isoquinoline | 9.9 g | C1(=CC=CC=C1)C1N2C(CC=3C=CC=CC13)CCNCC2 | C19H22N2
reactant | water | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (7RS,12aRS)-3-acetyl-1,2,3,4,5,7,12,12a-octahydro-7-phenyl-1,4-diazepino[1,7-b]isoquinoline | C(C)(=O)N1CCN2C(C=3C=CC=CC3CC2CC1)C1=CC=CC=C1 | C21H24N2O
